US08183240B2
Step 4: Synthesis of 4-[4-(2,4-dichlorophenyl)-5-(4H-1,2,4-triazol-3-yl)-1,3-thiazol-2-yl]morpholine
A mixture of 4-(2,4-dichlorophenyl)-2-morpholin-4-yl-1,3-thiazole-5-carboxamide (23 mg, 0.06 mmol) and 1,1-dimethoxy-N,N-dimethylmethanamine (0.8 mL, 6 mol) was irradiated in the microwave at 160° C. (300 watts) for 30 minutes. The reaction was concentrated in vacuo. The residue dissolved in acetic acid (1.0 mL, 0.18 mol) and hydrazine hydrate (30 mg, 0.7 mmol) and subjected to microwave irradiation at 120° C. (300 watts) for 15 minutes. The solvent was removed in vacuo, the residue was diluted with water (1 mL), the precipitate was collected, washed with water (1 mL) and dried to afford the title compound (10 mg, 40%). LCMS: (FA) ES+, 382. 1H NMR (400 MHz, d6-DMSO) δ: 13.9 (s, 1H), 8.42 (s, 1H), 7.63 (d, 1H), 7.44-7.42 (m, 2H), 3.73-3.70 (m, 4H), 3.44-3.42 (m, 4H).

reactant | 4-(2,4-dichlorophenyl)-2-morpholin-4-yl-1,3-thiazole-5-carboxamide | 0.06 mmol, 23 mg | ClC1=C(C=CC(=C1)Cl)C=1N=C(SC1C(=O)N)N1CCOCC1 | C14H13Cl2N3O2S
reactant | 1,1-dimethoxy-N,N-dimethylmethanamine | 6 mol, 0.8 mL | COC(N(C)C)OC | C5H13NO2
reactant | acetic acid | 0.18 mol, 1.0 mL | C(C)(=O)O | C2H4O2
reactant | hydrazine hydrate | 0.7 mmol, 30 mg | O.NN
product | 4-[4-(2,4-dichlorophenyl)-5-(4H-1,2,4-triazol-3-yl)-1,3-thiazol-2-yl]morpholine | 10 mg, 40% | ClC1=C(C=CC(=C1)Cl)C=1N=C(SC1C1=NN=CN1)N1CCOCC1 | C15H13Cl2N5OS
